US06995263B2
f] {6-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester
To an ice cold solution of (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (70 mg, 0.28 mmol), [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (76 mg, 0.28 mmol) and tributylphosphine (110 μl, 0.42 mmol) in tetrahydrofuran (4 ml) was added N,N,N′,N′-tetramethyl azodicarboxamide (73 mg, 0.42 mmol) under an argon atmosphere. The cooling bath was removed and stirring continued for 14 h. Filtration over celite and evaporation of the solvent under reduced pressure gave a yellow oil which was purified by column chromatography (silica gel, heptane/AcOEt) to give 105 mg (0.21 mmol, 75%) of the title compound as white crystals.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | 0.28 mmol, 70 mg | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 0.28 mmol, 76 mg | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
reactant | tributylphosphine | 0.42 mmol, 110 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | 0.42 mmol, 73 mg | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | {6-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | 0.21 mmol, 105 mg, 75% | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H27F3N2O3
